US04933453
3-(4-Bromobutyl)-2,2,5,5-tetramethyl-4-thiazolidinone
To a -75° C. solution of 3-(4-bromobutyl)-2,2-dimethyl-4-thiazolidinone (13.18 g), iodomethane (22.83 g) and THF (30 ml) was added a -75° C. solution of lithium bis(trimethylsilyl)amide (0.100 mol) in THF (110 ml) over a period of 12 minutes. The resulting solution was stirred at -75° C. for 25 minutes, removed from the cold bath and acidified with 1N HCl (250 ml). The aqueous mixture was extracted with diethylether (3×125 ml). The combined extracts were washed with brine (150 ml), dried (anhydrous Na2SO4) and concentrated under reduced pressure to give 16.86 g of liquid. Column chromatography of the liquid using silica gel (about 600 g) and elution with 30% ethyl acetate/hexanes afforded 12.50 g of oil.

reactant | 3-(4-bromobutyl)-2,2-dimethyl-4-thiazolidinone | 13.18 g | BrCCCCN1C(SCC1=O)(C)C | C9H16BrNOS
reactant | iodomethane | 22.83 g | IC | CH3I
reactant | lithium bis(trimethylsilyl)amide | 0.100 mol | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 110 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(4-Bromobutyl)-2,2,5,5-tetramethyl-4-thiazolidinone | 16.86 g | BrCCCCN1C(SC(C1=O)(C)C)(C)C | C11H20BrNOS
